US07312233B2
3,4-Dihydro-2H-benzo[b][1,4]oxazin-6-amine
6-Amino-2H-benzo[b][1,4]oxazin-3(4H)-one (590 mg, 3.6 mmol) was added to THF solution of borane tetrahydrofuran complex (9 mL, 1M solution) and the reaction mixture was refluxed for 2.5 h. EtOH (2 mL) was added and stirred at 70° C. for 1 h before 1 mL HCl (conc.) was added. The mixture was stirred at 80° C. overnight then the volatiles were removed under vacuum to leave a crude reside. The residue was dissolved in water, NaOH was added until pH˜10, and the mixture was extracted with CH2Cl2. The organic phase was washed with water and the solvent was removed under vacuum. The residue was purified by column chromatography on silica gel to give the product (274 mg, 51%) as a colorless oil.

reactant | 6-Amino-2H-benzo[b][1,4]oxazin-3(4H)-one | 3.6 mmol, 590 mg | NC1=CC2=C(OCC(N2)=O)C=C1 | C8H8N2O2
reactant | THF | C1CCOC1 | C4H8O
reactant | HCl | 1 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
solvent | EtOH | 2 mL | CCO | C2H6O
product | 3,4-Dihydro-2H-benzo[b][1,4]oxazin-6-amine | 274 mg, 51% | O1C2=C(NCC1)C=C(C=C2)N | C8H10N2O
